datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C(CC)C([H])C(C)[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCCCCCC)C)CC>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCCCCCC)C)CC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[O]CC.[Cl-]>>[Cl-].C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C([H])[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH]([H])[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C(C)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][S:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[O-:10]C(C(C1=C(C=CC=C1)[CH:20](OC)=[O:21])[H])[H]>>[O-:21][CH:20]2(OC)C3=C(C(C([O:10]2)[H])[H])C=CC=C3  10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CC.[O-:21][H]>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])[H])CC 21=20;20,10=10"
"[OH:10]C(C)C(C)/C([H])=C([H])\[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C([H])=C([H])C(C)C(C)[OH+:10]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C)CC.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C)CC 21=20;20,10=10"
"[O-:10]C(CCC)C(C)/C(C)=C(C)\[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)=C(C)C(C)C(CCC)[O:10]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(C)C(C)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(C)C(C)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CCCCCC)CC>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[O][H].[Cl-]>>[Cl-].CC[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)[H].[O-:21][H]>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])C1=CC=CC=C1)[H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])C)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C(C)[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C([H])C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(C)[NH]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC1=CC=CC=C1)C.[O-:21]C>>CCN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]C)C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([Na])C([H])C(C)N1C>>[O:10]([Na])C([H])C(C)N([C:20](OC)=[O:21])C 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"C(C(O[C:20](=[O:10])OC)C)([O-:21])[H]>>C1(C([O:21][C:20](O1)([O-:10])OC)[H])C 21=20;20,10=10"
"CC[S+:10]([H])[C:20]([O:21]C)([O]CC)[O]CC.[Cl-]>>[Cl-].CC[S:10][H].C[O+:21]=[C:20]([O]CC)[O]CC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]([O-:10])(OC)[O:21]CC)CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[O:10]([Na])C([H])C([H])/C(C)=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C(C)C([H])C([H])[O+:10]1([Na]) 10=20;20,21=21"
"CCN([C:20]([O-:10])(OCCCCCC)[O:21]CC)C1=CC=CC=C1>>CCN([C:20](=[O:10])OCCCCCC)C1=CC=CC=C1.[O-:21]CC 10=20;20,21=21"
"[H][O:10]C(C)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([K])C([H])/C(C)=C(C)\C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)=C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)C)CC>>[H]N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)C)[O-:10])CC 21=20;20,10=10"
"[O:10]([K])C([H])C([H])/C(C)=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C(C)C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([S][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([S][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OCC)C)CC>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OCC)C)CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(CC)C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[S]C(CC)C([H])[O]1 10=20;20,21=21"
